US05866556
Preparation of [[(6-Chloro-3-pyridinyl)amino]methylidene]-bisphosphonic acid tetraethylester
6-Chloro-3-aminopyridine was alkylated with diethyl iodomethylphosphonate, sodium amide as base, with known methods. The obtained 6-chloro-3-pyridinylamino-methylphosphonic acid diethylester (0.5 mol) and N-bromosuccinimid (0.5 mol) in anhydrous carbontetrachloride is irradiated 2 hours with a 200 W lamp. The solid is filtered off, washed with carbontetrachloride and the solution is concentrated in vacuo. The obtained 6-chloro-3-pyridinylamino(bromomethyl)-phosphonic acid diethylester (0.1 mol) is warmed in tetrahydrofuran with triethylphosphite (0.1 mol) in 50° C. for 4 hours. The reaction mixture is concentrated in vacuo. The product is purified chromatographically (eluent dichloromethane: methanol 9:1). Yield 5.1 g.

reactant | 6-Chloro-3-aminopyridine | ClC1=CC=C(C=N1)N | C5H5ClN2
reactant | diethyl iodomethylphosphonate | ICP(OCC)(OCC)=O | C5H12IO3P
reactant | sodium amide | [NH2-].[Na+]
reactant | N-bromosuccinimid | 0.5 mol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triethylphosphite | 0.1 mol | C(C)OP(OCC)OCC | C6H15O3P
solvent | carbontetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [[(6-Chloro-3-pyridinyl)amino]methylidene]-bisphosphonic acid tetraethylester | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)NC=1C=NC(=CC1)Cl | C14H25ClN2O6P2
